datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Brc1cc(Br)c2cccnc2c1[O-:10].O=C1c2ccccc2C(=O)N1[O:21][H:20]>>Brc1cc(Br)c2cccnc2c1[O:10][H:20].O=C1c2ccccc2C(=O)N1[O-:21] 10=20;20,21=21",
"CNc1nc(C)nc2c1cn[n:21]2[H:20].c1cncc(C[NH2:10])c1>>CNc1nc(C)nc2c1cn[n-:21]2.c1cncc(C[NH2+:10][H:20])c1 10=20;20,21=21",
"CC(C)(N)C(C)(C)[NH2:10].Oc1ccc2n[n+:21]([H:20])ccc2c1>>CC(C)(N)C(C)(C)[NH2+:10][H:20].Oc1ccc2n[n:21]ccc2c1 10=20;20,21=21",
"COC(=O)CC[S:21][H:20].C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O-:10]>>COC(=O)CC[S-:21].C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"COc1cccc[n+]1[O-:10].O=C(c1ccc(O)cc1)[O:21][H:20]>>COc1cccc[n+]1[O:10][H:20].O=C(c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"Brc1cc(Br)cc([NH2+:21][H:20])c1.Clc1ccc(CC[NH2:10])cc1>>Brc1cc(Br)cc([NH2:21])c1.Clc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"C=CCC(=O)[O-:10].O=C(CCCBr)OCCCC(=O)[O:21][H:20]>>C=CCC(=O)[O:10][H:20].O=C(CCCBr)OCCCC(=O)[O-:21] 10=20;20,21=21",
"Clc1ccc(C/C(=C\C[N+:21]2([H:20])CCCC2)c2ccccc2)cc1.OC[C@@H]1O[C@H](n2cnc3c([S-])[n:10]cnc32)[C@@H](O)[C@H]1O>>Clc1ccc(C/C(=C\C[N:21]2CCCC2)c2ccccc2)cc1.OC[C@@H]1O[C@H](n2cnc3c([S-])[n+:10]([H:20])cnc32)[C@@H](O)[C@H]1O 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]C(=O)OCc2ccc([N+](=O)[O-])cc2)cc1.O=C([C@@H]1O[C@H](Oc2ccc3ccc[nH+]c3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>Cc1ccc(S(=O)(=O)[N:10](C(=O)OCc2ccc([N+](=O)[O-])cc2)[H:20])cc1.O=C([C@@H]1O[C@H](Oc2ccc3ccc[nH+]c3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"CCC[NH:10]Cc1ccc(C)cc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](Cc1ccc(C)cc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCC1(c2ccccc2)C(=O)N(C)C(=S)[N:21]([H:20])C1=O.Cc1ccc(C(O)C(C(=O)[O-:10])c2ccc(C3CCCCC3)cc2)cc1>>CCC1(c2ccccc2)C(=O)N(C)C(=S)[N-:21]C1=O.Cc1ccc(C(O)C(C(=O)[O:10][H:20])c2ccc(C3CCCCC3)cc2)cc1 10=20;20,21=21",
"Nc1cccc2cc3ccccc3[n:10]c12.c1ccc(Oc2ccc[n+:21]([H:20])c2)cc1>>Nc1cccc2cc3ccccc3[n+:10]([H:20])c12.c1ccc(Oc2ccc[n:21]c2)cc1 10=20;20,21=21",
"COc1c2cnn(C)c2nc[n+:21]1[H:20].O=S(=O)([N-]c1ncc(Cl)cn1)c1ccc([O-:10])cc1>>COc1c2cnn(C)c2nc[n:21]1.O=S(=O)([N-]c1ncc(Cl)cn1)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CN(C)CC[N+:21](C)(CCN(C)C)[H:20].CN1CCCCCC[N:10](C)CCCCCC1>>CN(C)CC[N:21](C)CCN(C)C.CN1CCCCCC[N+:10](C)([H:20])CCCCCC1 10=20;20,21=21",
"O=C(CC[NH2:10])NC(Cc1c[nH]cn1)C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(CC[NH2+:10][H:20])NC(Cc1c[nH]cn1)C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C/C(=N\[O-:10])C(CO)=N[O-].CCCC[N+:21]1([H:20])CCCCC1C>>C/C(=N\[O:10][H:20])C(CO)=N[O-].CCCC[N:21]1CCCCC1C 10=20;20,21=21",
"C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1)[H:20].Cc1cccc(Cl)c1C(=O)[O-:10]>>C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1.Cc1cccc(Cl)c1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)C1(c2ccccc2)CC[N:10](C)CC1.O=S(=O)(Cc1ccccc1)c1ncn[n:21]1[H:20]>>CCOC(=O)C1(c2ccccc2)CC[N+:10](C)([H:20])CC1.O=S(=O)(Cc1ccccc1)c1ncn[n-:21]1 10=20;20,21=21",
"CCCCCCCC[NH:10]Cc1ccc(C)cc1.c1ccc(CSc2cnn[n:21]2[H:20])cc1>>CCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].c1ccc(CSc2cnn[n-:21]2)cc1 10=20;20,21=21",
"Nc1nnc(S(=O)(=O)[NH:21][H:20])s1.Oc1cccc2c([NH2:10])cccc12>>Nc1nnc(S(=O)(=O)[NH-:21])s1.Oc1cccc2c([NH2+:10][H:20])cccc12 10=20;20,21=21",
"Cc1c(C)c([O-:10])c(C)c(C)c1[O-].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1c(C)c([O:10][H:20])c(C)c(C)c1[O-].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCC(CO)(CO)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCC(CO)(CO)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(O)C(=O)C1=Nc2c(nc(N)[n:10]c2[O-])NC1.Nc1ccc2c[n+:21]([H:20])[nH]c2c1>>CC(O)C(=O)C1=Nc2c(nc(N)[n+:10]([H:20])c2[O-])NC1.Nc1ccc2c[n:21][nH]c2c1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCNCCC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCNCCC[NH2+:10][H:20] 10=20;20,21=21",
"NC#[N+:21][H:20].Nc1ccc(S(=O)(=O)[N-:10]c2ccn(-c3ccccc3[N+](=O)[O-])n2)cc1>>NC#[N:21].Nc1ccc(S(=O)(=O)[N:10](c2ccn(-c3ccccc3[N+](=O)[O-])n2)[H:20])cc1 10=20;20,21=21",
"CCC1CCC[N+:21]1(C)[H:20].CC[N:10](CC)CC1CO1>>CCC1CCC[N:21]1C.CC[N+:10](CC)(CC1CO1)[H:20] 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(N)=O.Nc1nc2cc3ccccc3cc2[n-:10]1>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(N)=O.Nc1nc2cc3ccccc3cc2[n:10]1[H:20] 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"CCCCCCCCCC(=O)[O-:10].CCc1nsc([O:21][H:20])n1>>CCCCCCCCCC(=O)[O:10][H:20].CCc1nsc([O-:21])n1 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])c(Cl)c1.c1ccc(CCNc2nc[n:10]c3nc[nH]c23)cc1>>Cc1ccc(C(=O)[O-:21])c(Cl)c1.c1ccc(CCNc2nc[n+:10]([H:20])c3nc[nH]c23)cc1 10=20;20,21=21",
